US08802860B2
Preparation of diethyl [1-(2-methoxy-4-nitrophenyl)-2-oxo-1,2-dihydropyridin-3-yl]malonate
39.3 g of sodium tert-butylate (0.41 mol) were introduced as initial charge in 300 ml of dioxane, and 65.5 g of diethyl malonate (0.41 mol) were added dropwise over the course of 15 min such that the temperature does not exceed 30° C. After 1 h, 2.70 g (8.8 mmol) of bis(2-pyridinecarboxylato)copper(II) complex and 38.0 g (0.12 mol) of 3-bromo-1-(2-methoxy-4-nitrophenyl)pyridin-2(1H)-one were added and the reaction mixture was heated at reflux for 8 h. After cooling to RT, the mixture was further stirred overnight. The reaction mixture was filtered off from the solid with suction, the residue was after-washed with dioxane and the combined organic fractions were evaporated to ca. 300 g on a rotary evaporator. The crude solution was used in the next stage without further purification.

reactant | diethyl malonate | 0.41 mol, 65.5 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-bromo-1-(2-methoxy-4-nitrophenyl)pyridin-2(1H)-one | 0.12 mol, 38.0 g | BrC=1C(N(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])OC)=O | C12H9BrN2O4
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | diethyl [1-(2-methoxy-4-nitrophenyl)-2-oxo-1,2-dihydropyridin-3-yl]malonate | COC1=C(C=CC(=C1)[N+](=O)[O-])N1C(C(=CC=C1)C(C(=O)OCC)C(=O)OCC)=O | C19H20N2O8
